US08633313B2
To a solution of 3-nitropicolinaldehyde (500 mg, 3.28 mmol) in EtOH (10 mL) was added Pd/C (50 mg) under nitrogen atmosphere. The reaction mixture was stirred for overnight under hydrogen atmosphere. The reaction mixture was filtered through cilite and washed with EtOH. The filtrate was concentrated in vacuo to give 3-aminopicolinaldehyde (200 mg, 50% yield): 1H NMR (400 MHz, DMSO-d6) δ 7.132 (br s, 2H), 7.217-7.325 (m, 2H), 7.979 (dd, J=1.6 Hz, J=4.0 Hz, 1H), 9.899 (s, 1H); LC-MS (ESI) m/z 123.0 [M+H]+.

reactant | 3-nitropicolinaldehyde | 3.28 mmol, 500 mg | [N+](=O)([O-])C=1C(=NC=CC1)C=O | C6H4N2O3
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 3-aminopicolinaldehyde | 200 mg, 50% yield | NC=1C(=NC=CC1)C=O | C6H6N2O
